US03939175
34.6 g (0.1 mol) of 5-(3',5'-di-tert.-butyl-4'-hydroxyphenylethyl)-5-methyl-hydantoin, 8.7 g (0.05 mol) of methylene bromide and 38 g (0.1 mol) of potassium hydroxide are initially introduced into 100 ml of dimethylformamide and the mixture is kept at 80°C for 16 hours, whilst stirring. After cooling, insoluble matter is filtered off, first 100 ml of toluene and then 100 ml of water are added and the toluene phase is separated off and repeatedly washed with water. Thereafter, 50 ml of toluene are distilled off under reduced pressure and the residual brown solution is left to stand for 24 hours at room temperature. The resulting precipitate is filtered off and recrystallised from acetonitrile. 3,3'-methylene-bis[5-(3",5"-di-tert.-butyl-4"-hydroxy-phenylethyl)-5-methyl-hydantoin] of melting point 222°C (stabiliser No. 20) are thus obtained.

reactant | 5-(3',5'-di-tert.-butyl-4'-hydroxyphenylethyl)-5-methyl-hydantoin | 0.1 mol, 34.6 g | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)CCC1(C(NC(N1)=O)=O)C | C20H30N2O3
reactant | methylene bromide | 0.05 mol, 8.7 g | C(Br)Br | CH2Br2
reactant | potassium hydroxide | 0.1 mol, 38 g | [OH-].[K+]
reactant | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 3,3'-methylene-bis[5-(3",5"-di-tert.-butyl-4"-hydroxy-phenylethyl)-5-methyl-hydantoin] | C(N1C(NC(C1=O)(CCC1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C)C)=O)N1C(NC(C1=O)(C)CCC1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C)=O | C41H60N4O6
